US07560474B2
Preparation of 1-(3-pyridyl)-2-propylaminoethanol
To 1.01 g (3.6 mmol) of 3-bromoacetylpyridine hydrobromide, prepared as described in Example 1, was added 20 ml of absolute ethanol and 0.5 g (13.2 mmol) of sodium boronhydride (NaBH4). The reaction mixture was stirred at 20° C. for 2 hours and filtered. To the filtrate containing 3-pyridyloxirane was added 0.7 ml (8.5 mmol) of n-propylamine and heated at reflux temperature of the reaction mixture for 5 hours. The reaction mixture was then evaporated to a dry residue and to it was added 20 ml of chloroform, a solid portion was filtered off, the filtrate was evaporated and an oil residue formed was purified by column chromatography on silica gel (silica gel 60, mobile phase: CHCl3:ethyl acetate=10:2). This yields 0.33 g (50%) of 1-(3-pyridyl)-2-propylaminoethanol in the form of the oil base (molecular weight: 180.25, gross formula: C10H16N2O)

reactant | 3-bromoacetylpyridine hydrobromide | 3.6 mmol, 1.01 g | Br.BrCC(=O)C=1C=NC=CC1
reactant | sodium | 13.2 mmol, 0.5 g | [Na] | Na
reactant | NaBH4 | [BH4-].[Na+]
reactant | n-propylamine | 8.5 mmol, 0.7 ml | C(CC)N | C3H9N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(3-pyridyl)-2-propylaminoethanol | N1=CC(=CC=C1)C(CNCCC)O | C10H16N2O
